US05726306
In toluene (20 ml) was dissolved trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetaldehyde (1.5 g). To the solution was added (ethoxycarbonylmethylene)-triphenylphosphorane (2.0 g), and the mixture was stirred for 3 hours at 90° C. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography (hexane:ethyl acetate=10:1) to give ethyl ester of trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-crotonic acid (1.28 g) as prisms, m.p.126°-127° C.

reactant | trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetaldehyde | 1.5 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2C(C)C)=O)CC=O)C2=C(C=CC=C2)Cl)C1 | C20H19Cl2NO3
reactant | (ethoxycarbonylmethylene)-triphenylphosphorane | 2.0 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-crotonic acid | 1.28 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2C(C)C)=O)C/C=C/C(=O)O)C2=C(C=CC=C2)Cl)C1 | C22H21Cl2NO4
